US07312241B2
Bis-(3-methoxyphenyl)methanone (1.23 g, 5.08 mmol), cyanomethylphosphonic acid diethyl ester (1.60 ml, 10.15 mmol) in anhydrous THF (10 ml), and lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 10.15 ml, 10.15 mmol) were treated in the same manner as described above for the synthesis of 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile. The crude was purified via flash column chromatography (10% EtOAc in hexane gradient to 25% EtOAc in hexane) to give 3,3-bis-(3-methoxy-phenyl)-acrylonitrile as a clear colorless oil (0.76 g, 56%): 1HNMR (DMSO-d6) δ 7.47-7.30 (two triplets, 2H, Ar), 7.12-7.04 (m, 2H, Ar), 6.98-6.82 (m, 4H, Ar), 6.38(s, 1H, double bond proton), 3.78 (s, 3H, OCH3), 3.76 (s, 3H, OCH3); 13C NMR (CDCl3) δ 163.0, 159.8, 159.6, 140.3, 138.3, 129.8, 129.7, 122.1, 121.1, 117.9, 116.1, 115.9, 115.0, 114.4, 95.3, 55.5; Anal. Calcd. For C17H15NO2: C, 76.96; H, 5.70; N, 5.28. Found: C, 76.65; H, 5.72; N, 5.15.

reactant | Bis-(3-methoxyphenyl)methanone | 5.08 mmol, 1.23 g | COC=1C=C(C=CC1)C(=O)C1=CC(=CC=C1)OC | C15H14O3
reactant | cyanomethylphosphonic acid diethyl ester | 10.15 mmol, 1.60 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis(trimethylsilyl)amide | 10.15 mmol, 1.0 M, 10.15 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)OC | C18H17NO3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,3-bis-(3-methoxy-phenyl)-acrylonitrile | 0.76 g, 56% | COC=1C=C(C=CC1)C(=CC#N)C1=CC(=CC=C1)OC | C17H15NO2
